US06518423B1
Methyl 10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazine-8-carboxylate
415 g of methyl 10H-pyrazino[2,3-b][1,4]benzothiazine-8-carboxylate was suspended in 2.5 l of N,N-dimethylformamide in a nitrogen atmosphere. Then 66 g of sodium hydride (oily: 60% or more) was added in portions thereto while maintaining the mixture at −10 to 0° C. Then the resulting mixture was stirred for 1 hour. Next, 110 g of chloromethyl methyl ether was dropped thereinto while maintaining the mixture at a temperature not exceeding 5° C. After the completion of the reaction, the reaction mixture was poured into ice, extracted with methylene chloride twice, washed with water and dried over anhydrous sodium sulfate. After distilling off the solvent under reduced pressure, diisopropyl ether was added to the residues and the crystals thus precipitated were taken up by filtration to thereby give 335 g of the title compound as yellow crystals.

reactant | methyl 10H-pyrazino[2,3-b][1,4]benzothiazine-8-carboxylate | 415 g | N1=CC=NC=2SC3=C(NC21)C=C(C=C3)C(=O)OC | C12H9N3O2S
reactant | sodium hydride | 66 g | [H-].[Na+]
reactant | chloromethyl methyl ether | 110 g | COCCl | C2H5ClO
solvent | N,N-dimethylformamide | 2.5 l | CN(C=O)C | C3H7NO
product | Methyl 10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazine-8-carboxylate | 335 g | COCN1C2=C(SC3=C1C=C(C=C3)C(=O)OC)N=CC=N2 | C14H13N3O3S
